US05814651
(a) Preparation of 5-(4-fluorophenyl)pentane
A suspension of 6-bromo-1-hexene (10 g), magnesium (1 .5g), and lodoethane (1 drop) in anhydrous tetrahydrofuran was heated at reflux until all of the magnesium dissolved. The resulting Grignard reagent was cooled to about 0° C. and was treated with a 1M solution of ZnCl2 in ether (67 ml), and the mixture was allowed to warm to room temperature over 30 minutes. Tetraids(triphenylphosphine)palladium (0) (3.5 g) and 4-bromofluorobenzene (6.73 ml) were added to the reaction and the mixture was heated to reflux for 1 hour. The mixture was cooled to room temperature, concentrated in vacuo, diluted with hexane, filtered and concentrated once more in vacuo. Chromatography on a silica gel column eluting with ether-hexane (0-5%) afforded 5 g of a colorless oil.

reactant | 6-bromo-1-hexene | 10 g | BrCCCCC=C | C6H11Br
reactant | magnesium | [Mg] | Mg
reactant | 4-bromofluorobenzene | 6.73 ml | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 67 ml | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 5-(4-fluorophenyl)pentane | 5 g | FC1=CC=C(C=C1)CCCCC | C11H15F
